US05447957
e) Benzhydrol 2-(2-amino-4-trifluoromethylphenoxy)-5-(1,1-dimethylpropyl)benzoate
2-(amino-4-trifluoromethylphenoxy)-5-(1,1-dimethylpropyl)benzoic acid (150 mg, 0.0004 mol) was dissolved in toluene and diphenyldiazomethane was added. The mixture was heated to 50° C., under argon, and stirred for 4 h. The solvents were evaporated and the residue was flash chromatographed (silica gel, ethyl acetate/hexane) to yield the title compound. 1H NMR (250 MHz, CDCl3) δ7.98 (d, 1H), 7.45 (dd, 1H), 7.24 (s, 10H), 6.83-6.98 (m, 4H), 6.65 (d, 1H), 3.93 (s, 2H), 1.64 (s, 2H), 1.29 (s, 6H), 0.69 (t, 3H).

reactant | 2-(amino-4-trifluoromethylphenoxy)-5-(1,1-dimethylpropyl)benzoic acid | 0.0004 mol, 150 mg | NC1=C(OC2=C(C(=O)O)C=C(C=C2)C(CC)(C)C)C=CC(=C1)C(F)(F)F | C19H20F3NO3
reactant | diphenyldiazomethane | C1(=CC=CC=C1)C(=[N+]=[N-])C1=CC=CC=C1 | C13H10N2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | Benzhydrol 2-(2-amino-4-trifluoromethylphenoxy)-5-(1,1-dimethylpropyl)benzoate | C(C1=CC=CC=C1)(C1=CC=CC=C1)O.NC1=C(OC2=C(C(=O)[O-])C=C(C=C2)C(CC)(C)C)C=CC(=C1)C(F)(F)F | InChI=1S/C19H20F3NO3.C13H12O/c1-4-18(2,3)11-5-7-15(13(9-11)17(24)25)26-16-8-6-12(10-14(16)23)19(20,21)22;14-13(11-7-3-1-4-8-11)12-9-5-2-6-10-12/h5-10H,4,23H2,1-3H3,(H,24,25);1-10,13-14H/p-1
